US06552188B2
Synthesis of 3-(3,4,5-trimethoxyphenyl)-2-propen-1-ol
3,4,5-Trimethoxycinnamic acid (1.5 g) was dissolved in THF (100 mL), triethylamine (0.64 mL) was added to the solution under ice cooling, and ethyl chlorocarbonate (0.44 mL) was then added dropwise thereto. After stirring the resultant mixture at room temperature for 1 hour, sodium borohydride (477 mg) was added to the mixture under ice cooling. After stirring the resultant mixture at room temperature for 1 hour, diluted hydrochloric acid was added to the reaction mixture to conduct extraction with chloroform. The resultant organic layer was washed with saturated brine, dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=1:1) to obtain the title compound.

reactant | 3,4,5-Trimethoxycinnamic acid | 1.5 g | COC=1C=C(C=CC(=O)O)C=C(C1OC)OC | C12H14O5
reactant | ethyl chlorocarbonate | 0.44 mL | C(OCC)(=O)Cl | C3H5ClO2
reactant | sodium borohydride | 477 mg | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | triethylamine | 0.64 mL | C(C)N(CC)CC | C6H15N
product | 3-(3,4,5-trimethoxyphenyl)-2-propen-1-ol | COC=1C=C(C=C(C1OC)OC)C=CCO | C12H16O4
